US04255426
4-Cyano-1-(2-hydroxy-3-n-hexadecyloxypropyl)-4-phenylpiperidine
4-Cyano-4-phenylpiperidine (1.1 g, 0.0059 mol) and 2,3-epoxypropyl-n-hexadecylether (1.6 g, 0.0056 mol) were combined and heated to 185° C. for 30 minutes. After cooling, ethyl acetate (20 ml) and acetonitrile (20 ml) were added, and the resulting solid was collected by filtration (1.6 g, 62% yield): mp 69°-70° C.; ir (KBr) 2227 cm-1.

reactant | 4-Cyano-4-phenylpiperidine | 0.0059 mol, 1.1 g | C(#N)C1(CCNCC1)C1=CC=CC=C1 | C12H14N2
reactant | 2,3-epoxypropyl-n-hexadecylether | 0.0056 mol, 1.6 g | O1C(CC(CCCCCCCCCCCCCCC)OC(CCCCCCCCCCCCCCC)CC2CO2)C1 | C38H74O3
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-Cyano-1-(2-hydroxy-3-n-hexadecyloxypropyl)-4-phenylpiperidine | 62% yield | C(#N)C1(CCN(CC1)CC(COCCCCCCCCCCCCCCCC)O)C1=CC=CC=C1 | C31H52N2O2
